US06949542B2
(2-Amino-5-methoxy-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example A12) (12.234 g, 45.6 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a purple solid (7.185 g).

reactant | (5-methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | 45.6 mmol, 12.234 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-methoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)N)=O | C12H18N2O3
